US06034129
Synthesis of TMAEAC/t-Butylacrylate/Acrylamide Terpolymer 33/33/33
To a 500 mL round-bottom, three-neck flask fitted with a thermocouple, reflux condenser, and septum was added 150 mL of isopropanol followed by 16.13 g of a 50% aqueous solution of 2-trimethylammoniumethylacrylate chloride, 8.06 g of t-butylacrylate, and 8.06 g of acrylamide. The solution was purged with nitrogen for 1 hour and 0.5 g AIBN was added. The mixture was purged for ~ 15 minutes until all of the AIBN dissolved. The solution was heated to 75° C. under nitrogen for 16 hours.

reactant | t-butylacrylate | 8.06 g | C(C)(C)(C)OC(C=C)=O | C7H12O2
reactant | acrylamide | 8.06 g | C(C=C)(=O)N | C3H5NO
solvent | isopropanol | 150 mL | C(C)(C)O | C3H8O
product | t-Butylacrylate Acrylamide | C(C)(C)(C)OC(C=C)=O.C(C=C)(=O)N | InChI=1S/C7H12O2.C3H5NO/c1-5-6(8)9-7(2,3)4;1-2-3(4)5/h5H,1H2,2-4H3;2H,1H2,(H2,4,5)
